US07713993B2
Synthesis of 5-chloro-2-(4-fluorophenyl)-2-methoxyvaleric acid
A 4 N sodium hydroxide solution (0.2 mL) was added to a mixed solution of methyl 5-chloro-2-(4-fluorophenyl)-2-methoxyvalerate (141 mg) in THF (1 mL) and methanol (0.5 mL), and the reaction solution was stirred at room temperature for 3.5 hours. Methanol (0.5 mL) and a 4 N sodium hydroxide solution (0.1 mL) were added to the reaction solution, and the reaction solution was further stirred at room temperature for 1.5 hours. Water was added to the reaction solution which was then washed with diethyl ether. 1 N hydrochloric acid (1.4 mL) and ethyl acetate were added to the resulting aqueous layer, and the organic layer was separated. The resulting ethyl acetate layer was washed with brine and dried over anhydrous magnesium sulfate. The resulting ethyl acetate layer was concentrated under reduced pressure to obtain 109 mg of the title compound. The property values of the compound are as follows.

reactant | sodium hydroxide | 4 N, 0.2 mL | [OH-].[Na+]
reactant | methyl 5-chloro-2-(4-fluorophenyl)-2-methoxyvalerate | 141 mg | ClCCCC(C(=O)OC)(OC)C1=CC=C(C=C1)F | C13H16ClFO3
reactant | sodium hydroxide | 4 N, 0.1 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | Methanol | 0.5 mL | CO | CH4O
product | 5-chloro-2-(4-fluorophenyl)-2-methoxyvaleric acid | 109 mg | ClCCCC(C(=O)O)(OC)C1=CC=C(C=C1)F | C12H14ClFO3
